US06479508B1
N,O-BisBoc-(S)-tyrosine
To a mechanically stirred suspension of L-tyrosine (50.00 g, 276 mmol) in 700 mL of water was added di-tert-butyldicarbonate (163.00 g, 745 mmol) dissolved in 400 mL of isopropanol. The pH was adjusted to 12.0 by adding a solution of 8N KOH and was subsequently maintained at this value by adding small volumes of the basic solution. After 4 h, di-tert-butyldicarbonate (100 g) was added and the mixture stirred overnight. The isopropanol was evaporated under reduced pressure, the residue diluted with 1 L of water, washed with Et2O (500 mL) and a 1:1 mixture of Et2O/hexane (2×500 mL). The aqueous solution was stirred with Et2O (1 L), cooled in an ice bath and the pH was adjusted to 2.5 with conc. HCl. The organic layer was decanted, the aqueous layer re-extracted with Et2O (2×500 mL), the organic fractions were pooled, washed with brine (500 mL), dried (MgSO4) and the solvent evaporated to yield 96.85 g (92%) of a thick clear oil which crystallized on standing.

reactant | L-tyrosine | 276 mmol, 50.00 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | di-tert-butyldicarbonate | 745 mmol, 163.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KOH | 8N | [OH-].[K+]
reactant | di-tert-butyldicarbonate | 100 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 700 mL | O | H2O
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
product | N,O-BisBoc-(S)-tyrosine | 96.85 g, 92% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC(=O)OC(C)(C)C)C(=O)O | C19H27NO7
